US04659362
Ethoxyamine hydrochloride (0.30 g) and then aqueous sodium hydroxide (0.15 g in 2 ml of water) were added to a solution of 3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)-2-propionylcyclohex-2-en-1-one (0.90 g) in absolute ethanol (30 ml) at 20° C. with stirring. After 20 hours at 20° C. the mixture was diluted with water (150 ml) and extracted with chloroform (2×75 ml). The chloroform layer was dried over anhydrous magnesium sulphate and the solvent was removed by evaporation under reduced pressure to give 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)cyclohex-2-en-1-one (900 mg) as a pale yellow oil. The product was characterized by nuclear magnetic resonance spectroscopy.

reactant | Ethoxyamine hydrochloride | 0.30 g | Cl.C(C)ON
reactant | sodium hydroxide | 2 ml, 0.15 g | [OH-].[Na+]
reactant | 3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)-2-propionylcyclohex-2-en-1-one | 0.90 g | OC1=C(C(CC(C1)C=1C(=NC(=NC1OC)OC)OC)=O)C(CC)=O | C16H20N2O6
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)cyclohex-2-en-1-one | 900 mg | C(C)ON=C(CC)C=1C(CC(CC1O)C=1C(=NC(=NC1OC)OC)OC)=O | C18H25N3O6
